US04220654
A mixture of 2-(1-benzyl-5-methyl-4-imidazolyl)-4-carbethoxy-1,3-dithian-5-one (15.5 g., 0.041 mole) in water (40 ml.) containing concentrated sulfuric acid (3.0 ml.) is heated at 100° C. for 4-5 hours. The mixture is cooled, diluted with 10% hydrochloric acid, washed with diethyl ether and filtered through a charcoal pad. The filtrate is made basic with sodium carbonate solution and extracted into methylene chloride. The solvent is dried and evaporated to give a dark brown oil (11.2 g.), 2-(1-benzyl-5-methyl-4-imidazolyl)-1,3-dithian-5-one, which is used as is in subsequent steps.

reactant | 2-(1-benzyl-5-methyl-4-imidazolyl)-4-carbethoxy-1,3-dithian-5-one | 0.041 mole, 15.5 g | C(C1=CC=CC=C1)N1C=NC(=C1C)C1SCC(C(S1)C(=O)OCC)=O | C18H20N2O3S2
reactant | sulfuric acid | 3.0 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 40 ml | O | H2O
solvent | hydrochloric acid | Cl | ClH
product | 2-(1-benzyl-5-methyl-4-imidazolyl)-1,3-dithian-5-one | C(C1=CC=CC=C1)N1C=NC(=C1C)C1SCC(CS1)=O | C15H16N2OS2
